US04945091
To 170 ml of chloroform were added 9.9 g of 4-chloro-5-(4'-chlorobenzyloxy)-2-(3'-hydroxypropyl)-3(2H)-pyridazinone (0.03 mol) and slowly added 9.4 g of thionyl bromide (0.045 mol) under stirring for about 2 hours at -5° to 5° C. After reaction, the resulting solution was added little by little with water and the chloroform layer was separated. The layer was washed with water and then with aqueous solution of 5% sodium hydrogen carbonate, and further washed with saturated saline and dried over anhydrous sodium sulfate and freed of solvent by distillation under reduced pressure. The solid product thus obtained was recrystallized from a mixed solvent of n-hexane-benzene to give 5.2 g of 2-(3'-bromopropyl)-4-chloro-5-(4'-chlorobenzyloxy)-3(2H)-pyridazinone.

reactant | chloroform | 170 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-chloro-5-(4'-chlorobenzyloxy)-2-(3'-hydroxypropyl)-3(2H)-pyridazinone | 0.03 mol, 9.9 g | ClC=1C(N(N=CC1OCC1=CC=C(C=C1)Cl)CCCO)=O | C14H14Cl2N2O3
reactant | thionyl bromide | 0.045 mol, 9.4 g | S(=O)(Br)Br | Br2OS
solvent | water | O | H2O
product | 2-(3'-bromopropyl)-4-chloro-5-(4'-chlorobenzyloxy)-3(2H)-pyridazinone | 5.2 g | BrCCCN1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)Cl | C14H13BrCl2N2O2
